US07893060B2
5-Chloro-2-(4-cyclopropylmethylpiperazin-1-ylmethyl)-7-morpholin-4-ylthiazolo[4,5-d]pyrimidine
Prepared according to the method used in the preparation of 5-(5-chloro-7-morpholin-4-ylthiazolo[4,5-d]pyrimidin-2-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester using 1-cyclopropylmethylpiperazine in place of hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester. The title compound was obtained as a yellow solid (170 mg, 58%).

reactant | 5-(5-chloro-7-morpholin-4-ylthiazolo[4,5-d]pyrimidin-2-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2CN(CC2C1)CC=1SC2=C(N=C(N=C2N2CCOCC2)Cl)N1 | C21H29ClN6O3S
reactant | 1-cyclopropylmethylpiperazine | C1(CC1)CN1CCNCC1 | C8H16N2
product | 5-Chloro-2-(4-cyclopropylmethylpiperazin-1-ylmethyl)-7-morpholin-4-ylthiazolo[4,5-d]pyrimidine | ClC=1N=C(C2=C(N1)N=C(S2)CN2CCN(CC2)CC2CC2)N2CCOCC2 | C18H25ClN6OS
